US05428021
To a solution of 1.0 g (4.5 mmoles) of 5-nitro-4-ethylisatin in 8.0 mL of 5% NaOH was slowly added 1.25 mL (11 mmoles) of 30% hydrogen peroxide over 10 minutes. A mild exotherm was detectable. The solution was stirred at room temperature for 60 minutes, then poured over crushed ice. The solution was acidified with 10% HCl until the `cloud point`. The suspension was extracted 3× with ethyl acetate. The combined organic extracts were washed 1× with water, dried over MgSO4, and concentrated in vacuo. There was obtained a dark oil, which upon standing at room temperature, became an orange-rust colored solid. 0.78 g (82% yield) of 5-nitro-6-ethyl-2-aminobenzoic acid was obtained. NMR(DMSO-d6): 1.16(t,3H,J=7.2 Hz), 2.88(q,2H,J=7.2 Hz), 3.34(bs,2H), 6.66(d,1H,J=9.3 Hz), 7.84(d,1H,J=9.3 Hz). MS(m/z): 210(M+).

reactant | 5-nitro-4-ethylisatin | 4.5 mmoles, 1.0 g | [N+](=O)([O-])C=1C(=C2C(C(NC2=CC1)=O)=O)CC | C10H8N2O4
reactant | hydrogen peroxide | 11 mmoles, 1.25 mL | OO | H2O2
reactant | HCl | Cl | ClH
solvent | NaOH | 8.0 mL | [OH-].[Na+]
product | 5-nitro-6-ethyl-2-aminobenzoic acid | 0.78 g, 82% yield | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1CC)N | C9H10N2O4
